US07442702B2
(3-(((1-Methyl-1H-imidazole-4-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino)-methyl)-phenoxy)-acetic acid.
HCl. A solution of (3-(((1-methyl-1H-imidazole-4-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino)-methyl)-phenoxy)-acetic acid tert-butyl ester prepared of Example 10, Step B (0.094 g, 0.17 mmol) in 1N HCl in diethyl ether was stirred for 20 minutes as a precipitate formed. To the mixture was added 1 mL water and 1 mL dioxane and the reaction was stirred for 3 hours. The solvent was removed in vacuo, azeotroping with ethanol to yield the title compound as a solid (54 mg). 1H NMR (400 MHz, CD3OD) δ 9.09 (m, 2H), 8.95 (bs, 1H), 8.24 (d, 2H), 8.04 (s, 1H), 7.71 (s, 1H), 7.44 (d, 2H), 7.13 (m, 1H), 6.82 (d, 1H), 6.76 (d, 1H), 6.69 (s, 1H), 4.61 (s, 2H), 4.54 (s, 2H), 4.46 (s, 2H), 3.92 (s, 3H); MS 494 (M+1).

reactant | (3-(((1-methyl-1H-imidazole-4-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino)-methyl)-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CC=N1)S(=O)(=O)C=1N=CN(C1)C)=O | C28H31N5O5S
reactant | water | 1 mL | O | H2O
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 1N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3-(((1-Methyl-1H-imidazole-4-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino)-methyl)-phenoxy)-acetic acid | 54 mg | CN1C=NC(=C1)S(=O)(=O)N(CC1=CC=C(C=C1)C1=NC=CC=N1)CC=1C=C(OCC(=O)O)C=CC1 | C24H23N5O5S
